US07560546B2
5-Methyl-3-(morpholin-4-ylsulfonyl)-1H-indole-2-carboxamide
5-Bromo-3-(morpholin-4-ylsulfonyl)-1H-indole-2-carboxamide (106 mg, 0.273 mmol, 1.0 equiv), dichlorobis(triphenylphosphine)palladium(II) (50 mg, 0.07 mmol, 0.15 equiv) and tetramethyltin (270 μL, 1.91 mmol, 4.0 equiv) were combined in 5 mL of a 1:1 solution of DMF:HMPA. The solution was degassed and heated to 120° C. for 24 hours. The title compound was obtained after purification by preparative reversed phase HPLC. Proton NMR for the product was consistent with the titled compound. HRMS (ES) exact mass calculated for C14H18N3O4S (M+H+): 324.1013. Found 324.1014.

reactant | 5-Bromo-3-(morpholin-4-ylsulfonyl)-1H-indole-2-carboxamide | 0.273 mmol, 106 mg, 1.0 equiv | BrC=1C=C2C(=C(NC2=CC1)C(=O)N)S(=O)(=O)N1CCOCC1 | C13H14BrN3O4S
reactant | tetramethyltin | 1.91 mmol, 270 μL, 4.0 equiv | C[Sn](C)(C)C
reactant | DMF | CN(C)C=O | C3H7NO
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.07 mmol, 50 mg, 0.15 equiv | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | HMPA | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | 5-Methyl-3-(morpholin-4-ylsulfonyl)-1H-indole-2-carboxamide | CC=1C=C2C(=C(NC2=CC1)C(=O)N)S(=O)(=O)N1CCOCC1 | C14H17N3O4S
